24T-TGFF
* 24 管 D 触发器仿真文件

*选择 TT, FF, SS三种模式进行仿真
.prot
.lib "F:\synopsys\library_40\l0040ll_v1p4_1r.lib" TT
.unprot

* 测试电路网表
.inc 'D:\VLSI_homework\final\24T_TGFF\TEST_CIRCUIT.net'
* 仿真电路网表
.inc 'D:\VLSI_homework\final\24T_TGFF\24T_TGFF.net'

.option post nomod 
.param SUPPLY = 0.55V
+ T = 0.0001n
+ Wp = '2.3675*Wn'
+ Wn = 1.1e-07
+ T_hold = Thold
.temp 25
.global VSS VDD  VPW VNW COM1
.op vol


* 公共端
VVDD VDD 0 'SUPPLY'
VVPW VPW 0 0
VVNW VNW 0 'SUPPLY'
VVSS VSS 0 0


VIN1 CLK 0 PWL 0n 0V 10n 0V 10.001n 'SUPPLY' 50n 'SUPPLY' 50.001n 0V 80n 0V 80.001n 'SUPPLY' 
VIN2 IN 0 PWL 0n 0V 60n 0v 60.001n 'SUPPLY' '79.49ns+T_hold' 'SUPPLY' '79.49ns+T_hold+0.001ns' 0V


.TRAN 0.0001n 450n 
+ START=Thold   
+ SWEEP Thold 0ns 10ps 1ps

.probe tran v(in) v(ck) c(q)


.end